US07531529B2
Step 2: 2-Chloro-5-(2-methyl-4-trimethylsilanylethynyl-imidazol-1-yl)-pyridine
The title compound, MS: m/e=290.6 (M+H+), was prepared in accordance with the general method of example B, step 1, from 2-chloro-5-(4-iodo-2-methyl-imidazol-1-yl)-pyridine and trimethylsilylacetylen.

reactant | 2-chloro-5-(4-iodo-2-methyl-imidazol-1-yl)-pyridine | ClC1=NC=C(C=C1)N1C(=NC(=C1)I)C | C9H7ClIN3
reactant | trimethylsilylacetylen | C[Si](C)(C)C#C | C5H10Si
product | 2-Chloro-5-(2-methyl-4-trimethylsilanylethynyl-imidazol-1-yl)-pyridine | ClC1=NC=C(C=C1)N1C(=NC(=C1)C#C[Si](C)(C)C)C | C14H16ClN3Si
